US08110687B2
To a solution of 7-[(2-aminopyridin-4-yl)oxy]-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.183 g, 0.044 mmol) in THF (4.5 mL) under an atmosphere of nitrogen at 0° C. was added isocyanatoethane (0.035 mL, 0.44 mmol) in THF (0.2 mL) dropwise. The reaction mixture was allowed to warm to rt. After 3 h, additional isocyanatoethane (0.104 mL, 1.32 mmol) was added, and after 4 h isocyanatoethane (0.104 mL, 1.32 mmol) was added again. The reaction mixture was heated at 50° C. for 4 h and then diluted with water. The mixture was extracted with EtOAc. The organic solutions were combined, washed with water and brine, and dried over Na2SO4. The solution was filtered and concentrated. The residue was purified by column chromatography and then the product dissolved in DCM/MeOH. 2M HCl in Et2O was added and the mixture was concentrated to give N-(3-tert-butylphenyl)-7-[(2-{[(ethylamino)carbonyl]amino}-pyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-370 as its HCl salt (143 mg, 62%). 1H NMR (300 MHz, d6-DMSO; HCl salt) δ: 10.02 (s, 1H), 8.16 (d, 1H), 7.65 (dd, 1H), 7.49 (d, 2H), 7.17-7.28 (m, 2H), 6.95-7.09 (m, 2H), 6.87 (d, 1H), 6.70 (s, 1H), 3.10-3.20 (, 2H), 2.72-2.97 (m, 5H), 2.09 (d, 1H), 1.71-1.81 (m, 1H), 1.26 (s, 9H), and 1.06 (dd, 3H). LCMS: (FA) ES+ 487.4, ES− 485.3.

reactant | 7-[(2-aminopyridin-4-yl)oxy]-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.044 mmol, 0.183 g | NC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC1=CC(=CC=C1)C(C)(C)C | C26H29N3O2
reactant | isocyanatoethane | 0.44 mmol, 0.035 mL | N(=C=O)CC | C3H5NO
reactant | isocyanatoethane | 1.32 mmol, 0.104 mL | N(=C=O)CC | C3H5NO
reactant | isocyanatoethane | 1.32 mmol, 0.104 mL | N(=C=O)CC | C3H5NO
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(3-tert-butylphenyl)-7-[(2-{[(ethylamino)carbonyl]amino}-pyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)NC(=O)NCC | C29H34N4O3
